US04831041
A mixture of 2-amino-3-(2-methoxycarbonylamino-6-methylbenzyloxy)pyridine (4.22 g) and 3-mesyloxy-5-hexyn-2-one (2.74 g) in ethanol (42 ml) was refluxed for 62 hours and then evaporated in vacuo. To the residue was added and aqueous solution of sodium bicarbonate and the insoluble material was collected by filtration. The crude product was purified by column chromatography on silica gel (150 g) with methylene chloride and then a mixture of methylene chloride and acetonitrile (10:1) as eluents to afford a solid, which was recrystallized from a mixture of ethyl acetate and cyclohexane to give 8-(2-methoxycarbonylamino-6-methylbenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine.

reactant | 2-amino-3-(2-methoxycarbonylamino-6-methylbenzyloxy)pyridine | 4.22 g | NC1=NC=CC=C1OCC1=C(C=CC=C1C)NC(=O)OC | C15H17N3O3
reactant | 3-mesyloxy-5-hexyn-2-one | 2.74 g | S(=O)(=O)(C)OC(C(C)=O)CC#C | C7H10O4S
solvent | ethanol | 42 ml | C(C)O | C2H6O
product | 8-(2-methoxycarbonylamino-6-methylbenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine | COC(=O)NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C(=CC=C1)C | C21H21N3O3
